US06884801B1
N-Methyl-2-nitrobenzenesulfonamide (1.0 g, 4.6 mmol), 10% palladium on carbon (100 mg) and absolute ethanol (30 mL) were placed in a Parr bottle, the bottle placed on a Parr apparatus under a hydrogen atmosphere (45 psi), and shaken for 1 hour, The Parr bottle was evacuated and flushed with nitrogen, then the mixture was filtered through a disposable syringe filter. The filtrate was concentrated in vacuo to yield 0.81 g of 2-amino-N-methylbenzenesulfonamide.

reactant | N-Methyl-2-nitrobenzenesulfonamide | 4.6 mmol, 1.0 g | CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C7H8N2O4S
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-amino-N-methylbenzenesulfonamide | 0.81 g | NC1=C(C=CC=C1)S(=O)(=O)NC | C7H10N2O2S
